US03975388
d. 6-(o-Ethoxyphenyl)-4,5-dihydro-3(2H)-pyridazinone
Similarly prepared using hexyl bromide in place of ethyl bromide was: 6-(o-Hexyloxyphenyl)-4,5-dihydro-3(2H)-pyridazinone m.p. 75°-77°C.

reactant | hexyl bromide | C(CCCCC)Br | C6H13Br
reactant | 6-(o-Hexyloxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | C(CCCCC)OC1=C(C=CC=C1)C=1CCC(NN1)=O | C16H22N2O2
product | 6-(o-Ethoxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | C(C)OC1=C(C=CC=C1)C=1CCC(NN1)=O | C12H14N2O2
